US06509334B1
To a solution of 3-Bromo-5-fluorobenzyl alcohol (2.3 g, 0.011 mole) in CH2Cl2 (15 mL) was added 12.4 mL of 1.0M PBr3 (3.33 g, 0.0123 mole) in CH2Cl2, stirred for 3 hr, diluted with ether (100 mL), washed with H2O (50 ml, 3×), dried over MgSO4, concentrated, and purified by column chromatography using 1:9 ethyl acetate/hexane as an eluant solvent system. 3-Bromo-5-fluorobenzyl bromide was obtained as a white crystalline material was obtained, mp 41-43° C. 1H NMR (DMSO-d6) δ4.69 (s, 2H), 7.52(d, 1H, J=1.76 Hz) 7.54(d, 1H, J=1.91 Hz), 7.56(s, 1H); MS(EI): M+. m/z 266; Anal. Calc. For C7H5Br2F: C, 31.38, H, 1.88. Found: C, 31.75, H, 1.78.

reactant | 3-Bromo-5-fluorobenzyl alcohol | 0.011 mole, 2.3 g | BrC=1C=C(CO)C=C(C1)F | C7H6BrFO
reactant | PBr3 | 0.0123 mole, 1.0M, 12.4 mL, 3.33 g | P(Br)(Br)Br | Br3P
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 100 mL | CCOCC | C4H10O
product | 3-Bromo-5-fluorobenzyl bromide | BrC=1C=C(CBr)C=C(C1)F | C7H5Br2F
